US07618978B2
3-(2-(S)-Dibenzylamino-1-hydroxy-3-phenylpropyl)-4-benzyloxycarbonyl-1-methylpiperazin-2-one
Treat a solution of 4-benzyloxycarbonyl-1-methylpiperazin-2-one (1.4 g, 5.7 mmol) in THF (4 mL) cooled at −78° C. with lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 5.7 mL, 5.7 mmol) dropwise and stir 30 min. Add 2-(dibenzylamino)-3-phenylpropanal (1 g, 3.1 mmol) in THF (2 mL) and stir at −78° C. for 45 min. Quench with saturated aqueous ammonium chloride solution. Separate organic layer and wash with water, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 1:1 hexanes:ethyl acetate) to provide the title compound as a mixture of four diastereoisomers which are separated by HPLC (normal phase, eluting with 85:15 hexanes:isopropanol) (828 mg, 45% total yield).

reactant | 4-benzyloxycarbonyl-1-methylpiperazin-2-one | 5.7 mmol, 1.4 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C)=O | C13H16N2O3
reactant | lithium bis(trimethylsilyl)amide | 5.7 mmol, 1.0 M, 5.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(dibenzylamino)-3-phenylpropanal | 3.1 mmol, 1 g | C(C1=CC=CC=C1)N(C(C=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-(2-(S)-Dibenzylamino-1-hydroxy-3-phenylpropyl)-4-benzyloxycarbonyl-1-methylpiperazin-2-one | C(C1=CC=CC=C1)N([C@H](C(O)C1C(N(CCN1C(=O)OCC1=CC=CC=C1)C)=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C36H39N3O4
